US07259266B2
Step 1. Preparation of ethyl 7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of 2,4-dihydroxy benzaldehyde (20.0 g, 0.145 mole) and ethyl 4,4,4-trifluorocrotonate (36.58 g, 0.217 mole) was dissolved in anhydrous DMF (40 mL). The solution was warmed to 60° C., treated with anhydrous K2CO3 (40.0 g, 0.290 mole), and maintained at 80° C. for 48 h. The reaction was cooled to room temperature, diluted with 3N HCl, and extracted with ethyl acetate. The combined extracts were washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to afford an oil. The oil was passed through the silica plug and the plug was washed with 20% EtOAc in hexane to give yellow solid (13.22 g, 31.6%): LCMS m/z 311.05 (M+Na). 1H NMR (CDCl3/400 MHz) 7.67 (s, 1H), 7.09 (d, 1H, J=8.8 Hz), 6.46 (m, 2H), 5.67 (q, 1H, J=6 Hz), 4.29 (q, 2H, J=7.2 Hz), 1.33 (t, 3H, J=7.2 Hz).

reactant | 2,4-dihydroxy benzaldehyde | 0.145 mole, 20.0 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | ethyl 4,4,4-trifluorocrotonate | 0.217 mole, 36.58 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | K2CO3 | 0.290 mole, 40.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | HCl | 3N | Cl | ClH
product | ethyl 7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 13.22 g, 31.6% | OC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C13H11F3O4
